** Design view name: schematic
.GLOBAL vdd! gnd!

.TEMP 25.0
.OPTION
+    ARTIST=2
+    INGOLD=2
+    PARHIER=LOCAL
+    PSF=2

** Library name: CascodeSymmetricalCMOSOTA
** Cell name: cascodeSymmetricalCMOSOTA
** View name: schematic
c1 net1 out1
c2 net2 out1
c3 net3 out2
c4 net4 out2
m1 net5 net6 gnd! gnd! nmos
m2 net7 ibias vdd! vdd! pmos
m3 net8 ibias vdd! vdd! pmos
m4 net9 ibias vdd! vdd! pmos
m5 net6 ibias vdd! vdd! pmos
m6 net10 net10 gnd! gnd! nmos
m7 net11 net11 gnd! gnd! nmos
m8 net12 ibias vdd! vdd! pmos
m9 net13 ibias vdd! vdd! pmos
m10 net10 out2 net12 net12 pmos
m11 net11 vref net12 net12 pmos
m12 net10 out1 net13 net13 pmos
m13 net11 vref net13 net13 pmos
m14 net1 net11 gnd! gnd! nmos
m15 net3 net11 gnd! gnd! nmos
m16 net14 ibias vdd! vdd! pmos
m17 net1 in1 net14 net14 pmos
m18 net3 in2 net14 net14 pmos
m19 out1 net6 gnd! gnd! nmos
m20 out1 net2 vdd! vdd! pmos
m21 out2 net6 gnd! gnd! nmos
m22 out2 net4 vdd! vdd! pmos
c5 out1 gnd!
c6 out2 gnd!
m23 net15 net9 net16 net16 nmos
m24 net16 net1 gnd! gnd! nmos
m25 net15 ibias vdd! vdd! pmos
m26 net17 net9 net18 net18 nmos
m27 net18 net3 gnd! gnd! nmos
m28 net17 ibias vdd! vdd! pmos
m29 net2 net7 net19 net19 nmos
m30 net19 net19 gnd! gnd! nmos
m31 net2 net5 net20 net20 pmos
m32 net20 net15 vdd! vdd! pmos
m33 net4 net8 net21 net21 nmos
m34 net21 net21 gnd! gnd! nmos
m35 net4 net5 net22 net22 pmos
m36 net22 net17 vdd! vdd! pmos
m37 net7 net7 net23 net23 nmos
m38 net23 net19 gnd! gnd! nmos
m39 net8 net8 net24 net24 nmos
m40 net24 net21 gnd! gnd! nmos
m41 net9 net9 gnd! gnd! nmos
m42 net6 net6 gnd! gnd! nmos
m43 net5 net5 vdd! vdd! pmos
m44 ibias ibias vdd! vdd! pmos
.END
