** Design view name: schematic
.GLOBAL vdd! gnd!

.TEMP 25.0
.OPTION
+    ARTIST=2
+    INGOLD=2
+    PARHIER=LOCAL
+    PSF=2

** Library name: CascodeSymmetricalCMOSOTA
** Cell name: cascodeSymmetricalCMOSOTA
** View name: schematic
c1 net1 out
c2 net2 out
m1 net3 net4 gnd! gnd! nmos
m2 net5 ibias vdd! vdd! pmos
m3 net4 ibias vdd! vdd! pmos
m4 net6 net6 net7 net7 pmos
m5 net7 net8 vdd! vdd! pmos
m6 net1 net6 net8 net8 pmos
m7 net8 net8 vdd! vdd! pmos
m8 net6 net4 gnd! gnd! nmos
m9 net1 net4 gnd! gnd! nmos
m10 net9 ibias vdd! vdd! pmos
m11 net6 in1 net9 net9 pmos
m12 net1 in2 net9 net9 pmos
c3 out gnd!
m13 net10 net1 gnd! gnd! nmos
m14 net10 net10 vdd! vdd! pmos
m15 net2 net4 gnd! gnd! nmos
m16 net2 net10 vdd! vdd! pmos
m17 out net5 net11 net11 nmos
m18 net11 net11 gnd! gnd! nmos
m19 out net3 net12 net12 pmos
m20 net12 net2 vdd! vdd! pmos
m21 net5 net5 net13 net13 nmos
m22 net13 net11 gnd! gnd! nmos
m23 net4 net4 gnd! gnd! nmos
m24 net3 net3 vdd! vdd! pmos
m25 ibias ibias vdd! vdd! pmos
.END
